US08048909B2
N-Methyl-1-{1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanamine
To a solution (10 mL) of 1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde (200 mg) in methanol were added methylammonium chloride (207 mg) and sodium cyanoborohydride (39 mg), and the mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=6:1→1:1) to give the title compound as a brown oil (yield 15 mg, 7%).

reactant | 1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | 10 mL, 200 mg | CC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C18H15NO3S
reactant | methylammonium chloride | 207 mg | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 39 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
product | N-Methyl-1-{1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanamine | yield 15 mg, 7% | CNCC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C19H20N2O2S
